US07074799B2
To a solution of 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide (3.56 mmol) and pyridine (3.91 mmol) in THF (20 ml), add 4-methoxy-butyryl chloride (3.91 mmol). Stir the mixture 20 minutes at room temperature, add 20 ml of 20% NaOH, stir for 60 minutes at 50° C. Concentrate, add water, filter, acidify to pH=6, collect the precipitate to obtain 2-(3-benzyloxy-propyl)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol.

reactant | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | 3.56 mmol | NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H10F3N3O
reactant | pyridine | 3.91 mmol | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxy-butyryl chloride | 3.91 mmol | COCCCC(=O)Cl | C5H9ClO2
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-benzyloxy-propyl)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol | C(C1=CC=CC=C1)OCCCC1=NC2=CC(=CC=C2C(=N1)O)C1=NC=CC=C1C(F)(F)F | C24H20F3N3O2
